US05650533
Hydrogen peroxide (30%, 18 ml) was added dropwise with stirring to a solution of methyl 3-cyano-2-methyl-6-methylsulphenyl-benzoate (10.0 g) in ethanol (100 ml) in an atmosphere of nitrogen. A solution of sodium hydroxide (0.43 g) in water (2 ml) was added dropwise and the resultant rapid exotherm was controlled by ice cooling. After the exotherm had ceased the mixture was stirred and heated at 65° C. for 0.5 hours. The orange solution was poured into a mixture of ice and water (400 ml) and it was extracted with ether (3×100 ml). The combined organic extracts were washed with water (100 ml), aqueous ferrous sulphate solution (100 ml), water (2×100 ml), dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness to give 3-methoxycarbonyl-2-methyl-4-methylsulphenylbenzamide (4.2 g) as an orange oil, NMR (CDCl3) 2.3(s,3H), 2.4(s,3H), 3.9(s,3H), 6.5(bs,2H), 6.95(d, 1H), 7.25(d, 1H).

reactant | Hydrogen peroxide | 18 ml | OO | H2O2
reactant | methyl 3-cyano-2-methyl-6-methylsulphenyl-benzoate | 10.0 g | C(#N)C=1C(=C(C(=O)OC)C(=CC1)SC)C | C11H11NO2S
reactant | sodium hydroxide | 0.43 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 3-methoxycarbonyl-2-methyl-4-methylsulphenylbenzamide | 4.2 g | COC(=O)C=1C(=C(C(=O)N)C=CC1SC)C | C11H13NO3S
